US07098212B2
3-[3-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-ureido]-propionic acid methyl ester
To a solution of (5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-carbamic acid 4-nitro-phenyl ester (0.10 g, 0.18 mmol) in methanol was added β-alanine methyl ester hydrochloride (0.038 g, 0.27 mmol) and triethylamine (0.038 mL, 0.27 mmol). The reaction was stirred at ambient temperature overnight. The reaction was concentrated and purified via chromatography on silica gel to give the title compound (0.075 g).

reactant | (5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-carbamic acid 4-nitro-phenyl ester | 0.18 mmol, 0.10 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN(CC1)CC1=CC=C(C=C1)F)C)=O | C27H26ClFN4O6
reactant | β-alanine methyl ester hydrochloride | 0.27 mmol, 0.038 g | Cl.COC(CCN)=O
reactant | triethylamine | 0.27 mmol, 0.038 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | 3-[3-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-ureido]-propionic acid methyl ester | 0.075 g | COC(CCNC(=O)NC1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN(CC1)CC1=CC=C(C=C1)F)C)=O | C25H30ClFN4O5
